US07700552B2
2-(2-Dimethylamino-thiazole-4-yl)-7-methoxy-quinolin-4-ol (68)
2-Dimethylamino-thiazole-4-carboxylic acid (2-acetyl-5-methoxy-phenyl)-amide (1.29 g, 4.04 mmol) was dissolved in 20 mL pyridine in a microwave vial. Grinded KOH (0.48 g, 8.48 mmol) was added to the solution and the enclosed vial was reacted in the microwave oven at 100° C. for 30 minutes. The mixture was transferred to a round-bottom flask and the solvent was removed by rotary evaporation. The residue was transferred to a beaker with phosphate buffer (pH 7.0, 0.1 M, 300 mL) where the product precipitated while stirring. The precipitate was filtered, rinsed with water and dried with high vacuum. The product was found to be pure by LC-MS and NMR and was obtained in 74% yield (0.90 g). LRMS (M+H) 302.

reactant | 2-Dimethylamino-thiazole-4-carboxylic acid (2-acetyl-5-methoxy-phenyl)-amide | 4.04 mmol, 1.29 g | C(C)(=O)C1=C(C=C(C=C1)OC)NC(=O)C=1N=C(SC1)N(C)C | C15H17N3O3S
reactant | KOH | 8.48 mmol, 0.48 g | [OH-].[K+]
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-Dimethylamino-thiazole-4-yl)-7-methoxy-quinolin-4-ol | 74% yield | CN(C=1SC=C(N1)C1=NC2=CC(=CC=C2C(=C1)O)OC)C | C15H15N3O2S
